### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/SModEq): add `gcongr` lemmas

### PR DESCRIPTION
**Pull request by astrainfinita**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/SModEq.lean [hunk 1]
```diff
@@ -64,46 +64,102 @@ instance : IsRefl _ (SModEq U) :=
...
 theorem add (hxy₁ : x₁ ≡ y₁ [SMOD U]) (hxy₂ : x₂ ≡ y₂ [SMOD U]) : x₁ + x₂ ≡ y₁ + y₂ [SMOD U] := by
   rw [SModEq.def] at hxy₁ hxy₂ ⊢
   simp_rw [Quotient.mk_add, hxy₁, hxy₂]
 
+@[gcongr]
+theorem add_left (z : M) (hxy : x ≡ y [SMOD U]) : z + x ≡ z + y [SMOD U] :=
+  add rfl hxy
+
+@[gcongr]
+theorem add_right (z : M) (hxy : x ≡ y [SMOD U]) : x + z ≡ y + z [SMOD U] :=
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/SModEq.lean]: These (_left and _right) lemmas are no longer necessary for gcongr, after #26907.

File: Mathlib/LinearAlgebra/SModEq.lean [hunk 2]
```diff
@@ -64,46 +64,102 @@ instance : IsRefl _ (SModEq U) :=
...
 
+@[gcongr]
+theorem mul_left {I : Ideal A} (z : A) {x y : A} (hxy : x ≡ y [SMOD I]) :
+    z * x ≡ z * y [SMOD I] :=
+  mul rfl hxy
+
+@[gcongr]
+theorem mul_right {I : Ideal A} (z : A) {x y : A} (hxy : x ≡ y [SMOD I]) :
+    x * z ≡ y * z [SMOD I] :=
+  mul hxy rfl
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/SModEq.lean]: Likewise here

File: Mathlib/LinearAlgebra/SModEq.lean [hunk 3]
```diff
@@ -64,46 +64,102 @@ instance : IsRefl _ (SModEq U) :=
...
   simp_rw [Quotient.mk_sub, hxy₁, hxy₂]
 
+@[gcongr]
+theorem sub_left (z : M) (hxy : x ≡ y [SMOD U]) : z - x ≡ z - y [SMOD U] :=
+  sub rfl hxy
+
+@[gcongr]
+theorem sub_right (z : M) (hxy : x ≡ y [SMOD U]) : x - z ≡ y - z [SMOD U] :=
+  sub hxy rfl
+
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/SModEq.lean]: And here

**Review by grunweg — COMMENTED** [review]
Thank you for doing this! Due to recent improvements to gcongr, this PR can be simplified a bit: you don't need to add as many gcongr lemmas. Can you make this change, please?

File: Mathlib/LinearAlgebra/SModEq.lean [hunk 4]
```diff
@@ -64,42 +64,72 @@ instance : IsRefl _ (SModEq U) :=
...
   simp_rw [Quotient.mk_smul, hxy]
 
+@[gcongr]
 theorem mul {I : Ideal A} {x₁ x₂ y₁ y₂ : A} (hxy₁ : x₁ ≡ y₁ [SMOD I])
     (hxy₂ : x₂ ≡ y₂ [SMOD I]) : x₁ * x₂ ≡ y₁ * y₂ [SMOD I] := by
   simp only [SModEq.def, Ideal.Quotient.mk_eq_mk, map_mul] at hxy₁ hxy₂ ⊢
   rw [hxy₁, hxy₂]
 
+@[gcongr]
+theorem prod {I : Ideal A} {ι} {s : Finset ι} {x y : ι → A}
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/SModEq.lean:113]: Honest question: can you use `to_additive` here and obtain the `sum` version automatically?

**Review by grunweg — COMMENTED** [review]
Thanks! One question, otherwise LGTM.
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/SModEq.lean (hunk 4 above)
Comment (astrainfinita) [reply Mathlib/LinearAlgebra/SModEq.lean:113]: The additive version of the lemma only requires that `A` be a module, while the multiplicative version requires that it be a ring.
